US07091224B2
Step 1.1: 2-Nitro-N-(4-bromo-3-trifluoromethylphenyl)benzamide
A solution of 3-amino-6-bromobenzotrifluoride (Fluka, Buchs, Switzerland; 24.0 g, 100 mmol) in ethyl acetate (240 mL) is added to a stirred aqueous solution of sodium hydroxide (110 mL of 1 M) at room temperature. This stirred solution is then treated dropwise over 30 minutes with a solution of 2-nitrobenzoyl chloride (Fluka, Buchs, Switzerland; 14.5 mL, 110 mmol) in ethyl acetate (150 mL). The resulting mixture is then stirred for 30 min at ambient temperature. The mixture is extracted with ethyl acetate (3×100 mL) and the combined extracts are sequentially washed with hydrochloric acid (2×100 mL of 2M), water (2×100 mL), saturated aqueous sodium hydrogen carbonate solution (2×100 mL) and saturated aqueous sodium chloride (1×100 mL), dried (MgSO4), filtered and the solvent is evaporated under reduced pressure to yield the crude product which is purified by recrystallisation from ethyl acetate-hexane to give the title compound as a beige crystalline solid, m.p. 157–158° C.

reactant | 3-amino-6-bromobenzotrifluoride | 100 mmol, 24.0 g | NC=1C=C(C(=CC1)Br)C(F)(F)F | C7H5BrF3N
reactant | sodium hydroxide | 1 M, 110 mL | [OH-].[Na+]
reactant | 2-nitrobenzoyl chloride | 110 mmol, 14.5 mL | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
solvent | ethyl acetate | 240 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-Nitro-N-(4-bromo-3-trifluoromethylphenyl)benzamide | [N+](=O)([O-])C1=C(C(=O)NC2=CC(=C(C=C2)Br)C(F)(F)F)C=CC=C1 | C14H8BrF3N2O3
